US06812235B2
To a solution of ethyl N-(tert-butoxycarbonyl)-3-(2-propenylamino)propionate (1.0 g, 3.89 mmol) in methanol (10 mL) was added 1N aqueous LiOH solution (5.0 mL). After stirring overnight, the mixture was acidified to pH 2.5 with 20% aqueous KHSO4 solution, and extracted with ethyl acetate. The extract was dried over Na2SO4, and evaporated in vacuo to give N-(tert-butoxycarbonyl)-3-(2-propenylamino)propionic acid (0.8 g, 3.49 mmol, 89.7%) as a colourless oil.

reactant | ethyl N-(tert-butoxycarbonyl)-3-(2-propenylamino)propionate | 3.89 mmol, 1.0 g | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)CC=C | C13H23NO4
reactant | LiOH | 1N, 5.0 mL | [Li+].[OH-]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | N-(tert-butoxycarbonyl)-3-(2-propenylamino)propionic acid | 3.49 mmol, 0.8 g, 89.7% | C(C)(C)(C)OC(=O)N(CCC(=O)O)CC=C | C11H19NO4
